US05994586
0.275 mol of lithium aluminum hydride was introduced, under argon, with continual stirring, into tetrahydrofuran. The solution was then cooled to a temperature of 0° C., and 0.055 mol of methyl 2-hydroxyimino-3-oxo-4-acetoxyoctadecanoate was slowly added. The reaction mixture was then gradually heated to 60° C. At the end of the reaction, marked by the disappearance of the starting materials, the reaction mixture was hydrolysed while cold with a hydrochloric acid solution. A precipitate formed, which was filtered off, and then the solvent was evaporated under vacuum. After crystallizing from a mixture of ethyl ether and acetonitrile, a white solid was obtained which, filtered and dried, gave 14.2 g of 2-aminooctadecane-1,3,4-triol hydrochloride in the form of a white powder.

reactant | lithium aluminum hydride | 0.275 mol | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 2-hydroxyimino-3-oxo-4-acetoxyoctadecanoate | 0.055 mol | ON=C(C(=O)OC)C(C(CCCCCCCCCCCCCC)OC(C)=O)=O | C21H37NO6
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-aminooctadecane-1,3,4-triol hydrochloride | 14.2 g | Cl.NC(CO)C(C(CCCCCCCCCCCCCC)O)O | InChI=1S/C18H39NO3.ClH/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-17(21)18(22)16(19)15-20;/h16-18,20-22H,2-15,19H2,1H3;1H
